US09303007B2
A solution of (1R,3S,5R)-tert-butyl 3-(6-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)naphthalen-2-yl)-1H-benzo[d]imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate (573 mg, 1.04 mmol), methyl (S)-1-((1R,3S,5R)-3-(5-iodo-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexan-2-yl)-3-methyl-1-oxobutan-2-ylcarbamate (374 mg, 0.87 mmol), dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine (SPHOS, 71.0 mg, 0.173 mmol) and cesium carbonate (846 mg, 2.60 mmol) in THF (7.9 mL) and water (0.8 mL) was degassed at 0° C. under vacuum for 5 min and the reactor was then back filled with nitrogen. Palladium(II) acetate (19.4 mg, 0.087 mmol) was added and the reaction mixture was heated at 100° C. for 3 h. water was added to the cooled solution and the reaction was further diluted with EtOAc (15 mL). The phases were separated and the aqueous layer was extracted with EtOAc (15 mL). The combined organic layers were dried over Na2SO4, filtered through a pad of diatomaceous earth (CELITE®) and the volatiles were removed under reduced pressure. The residue was purified with flash chromatography (sample was dry loaded on silica gel and eluted with 20-100% ethyl acetate/hexanes then 5% MeOH/DCM) to afford (1R,3S,5R)-tert-butyl 3-(6-(6-(2-((1R,3S,5R)-2-((S)-2-(methoxycarbonylamino)-3-methylbutanoyl)-2-azabicyclo[3.1.0]hexan-3-yl)-1H-imidazol-5-yl)naphthalen-2-yl)-1H-benzo[d]imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate (246 mg, 0.337 mmol, 39.0% yield). LC-MS retention time 1.448 min; m/z 730.21 (MH+). LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters Sunfire C18 4.6×30 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 4 mL/min, a gradient of 100% Solvent A/0% Solvent B to 0% Solvent A/100% Solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where Solvent A was 10% methanol/90% water/0.1% TFA and Solvent B was 10% water/90% methanol/0.1% TFA. MS data was determined using a MICROMASS® Platform for LC in electrospray mode. 1H NMR (500 MHz, MeOD) δ ppm 8.32 (br s, 1H), 8.30 (s, 1H), 8.03-8.19 (m, 4H), 7.96-8.03 (m, 1H), 8.01 (s, 1H), 7.85-7.96 (m, 2H), 5.18 (dd, J=9.0, 7.0 Hz, 1H), 5.09 (dd, J=8.9, 7.6 Hz, 1H), 4.58 (d, J=6.5 Hz, 1H), 3.81-3.89 (m, 1H), 3.65-3.75 (m, 1H), 3.69 (s, 3H), 2.68-2.86 (m, 2H), 2.52 (dt, J=13.6, 6.8 Hz, 2H), 2.15-2.29 (m, 1H), 2.06-2.15 (m, 1H), 1.85-1.95 (m, 1H), 1.51 (br s, 4H), 1.41 (d, J=16.3 Hz, 1H), 1.27 (s, 1H), 1.20 (br s, 3H), 1.12 (ddd, J=8.7, 6.0, 5.9 Hz, 1H), 1.04 (d, J=6.8 Hz, 3H), 0.87-1.00 (m, 5H), 0.83 (br s, 1H).

reactant | (1R,3S,5R)-tert-butyl 3-(6-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)naphthalen-2-yl)-1H-benzo[d]imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate | 1.04 mmol, 573 mg | CC1(OB(OC1(C)C)C=1C=C2C=CC(=CC2=CC1)C=1C=CC2=C(NC(=N2)[C@H]2N([C@@H]3C[C@@H]3C2)C(=O)OC(C)(C)C)C1)C | C33H38BN3O4
reactant | methyl (S)-1-((1R,3S,5R)-3-(5-iodo-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexan-2-yl)-3-methyl-1-oxobutan-2-ylcarbamate | 0.87 mmol, 374 mg | IC1=CN=C(N1)[C@H]1N([C@@H]2C[C@@H]2C1)C([C@H](C(C)C)NC(OC)=O)=O | C15H21IN4O3
reactant | dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine | 0.173 mmol, 71.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | cesium carbonate | 2.60 mmol, 846 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | THF | 7.9 mL | C1CCOC1 | C4H8O
solvent | water | 0.8 mL | O | H2O
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
catalyst | Palladium(II) acetate | 0.087 mmol, 19.4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | MeOH DCM | CO.C(Cl)Cl
product | (1R,3S,5R)-tert-butyl 3-(6-(6-(2-((1R,3S,5R)-2-((S)-2-(methoxycarbonylamino)-3-methylbutanoyl)-2-azabicyclo[3.1.0]hexan-3-yl)-1H-imidazol-5-yl)naphthalen-2-yl)-1H-benzo[d]imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate | 0.337 mmol, 246 mg, 39.0% yield | COC(=O)N[C@H](C(=O)N1[C@@H]2C[C@@H]2C[C@H]1C=1NC(=CN1)C=1C=C2C=CC(=CC2=CC1)C=1C=CC2=C(NC(=N2)[C@H]2N([C@@H]3C[C@@H]3C2)C(=O)OC(C)(C)C)C1)C(C)C | C42H47N7O5
